US07202364B2
A solution of 4,7-dichloro-2-trifluoromethylquinoline (2 g, 7.52 mmol) in dioxane (10 mL) and NH3 (2 mL) are mixed at −78° C. in a sealed tube. After sealing and warming up to room temperature, the reaction is heated at 60–70° C. for 19 hours and at 120° C. for 3 hours. The sealed tube is cooled to −78° C. before it is opened and the contents are concentrated by rotary evaporator. 4-Amino-7-chloro-2-trifluoromethylquinoline is obtained as a solid by trituration of the residue with ether.

reactant | 4,7-dichloro-2-trifluoromethylquinoline | 7.52 mmol, 2 g | ClC1=CC(=NC2=CC(=CC=C12)Cl)C(F)(F)F | C10H4Cl2F3N
reactant | NH3 | 2 mL | N | H3N
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 4-Amino-7-chloro-2-trifluoromethylquinoline | NC1=CC(=NC2=CC(=CC=C12)Cl)C(F)(F)F | C10H6ClF3N2
